*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXS160ARA390MF61G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXS160ARA390MF61G_20deg-C 1 2

C1 4 2 2.33e-05
C2 5 2 5.33e-06
C3 6 2 3.54e-06
R1 3 4 1.35e-02
R2 4 5 2.45e-01
R3 5 6 3.20e+00
L1 1 3 2.60e-09

.ENDS
